US06166219
Thirty milliliters of 1,4-dioxane were added dropwise to a solution of 1.70 ml of titanium tetrachloride in 4 ml of dichloromethane in a nitrogen atmosphere while being cooled with ice. Then, a solution of 2.70 g of 3-[N-(2-chlorobenzyl)acetylamino]-4-nitrobenzamide in 65 ml of 1,4-dioxane was added dropwise thereto. After the mixture was stirred for 15 minutes, 3.14 g of triethylamine were added thereto, and the mixture was stirred for 2 hours while being cooled with ice. After the completion of the reaction, the solvent was distilled off under reduced pressure, and the residue was extracted with ethyl acetate and with water. The organic layer was washed with water, and was dried over magnesium sulfate. Subsequently, the solvent was distilled off under reduced pressure. The residue was purified through column chromatography (200 ml, a mixture of n-hexane and ethyl acetate at a ratio of 4:1] to give 1.21 g of 3-[N-(2-chlorobenzyl)acetylamino]-4-nitrobenznitrile.

reactant | 3-[N-(2-chlorobenzyl)acetylamino]-4-nitrobenzamide | 2.70 g | ClC1=C(CCC(=O)NC=2C=C(C(=O)N)C=CC2[N+](=O)[O-])C=CC=C1 | C16H14ClN3O4
reactant | triethylamine | 3.14 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 65 ml | O1CCOCC1 | C4H8O2
catalyst | titanium tetrachloride | 1.70 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | 1,4-dioxane | Thirty milliliters | O1CCOCC1 | C4H8O2
product | 3-[N-(2-chlorobenzyl)acetylamino]-4-nitrobenznitrile | 1.21 g | ClC1=C(CCC(=O)NC=2C=C(C#N)C=CC2[N+](=O)[O-])C=CC=C1 | C16H12ClN3O3
